US07772245B2
A mixture of 2-benzyl-1,2,3,4-tetrahydro[1]benzofuro[2,3-c]pyridine (0.2 g, 0.75 mmol) and methyl chloroformate (0.358 g, 3.787 mmol) in dichloroethane (15 mL) was refluxed for 1 h. The reaction mixture was cooled to room temperature and washed with saturated NaHCO3 (25 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated to furnish methyl 3,4-dihydro[1]benzofuro[2,3-c]pyridine-2(1H)-carboxylate (0.150 g, 85.7%). 1H NMR (200 MHz, CDCl3): δ 2.70-2.76 (m, 2H), 3.80 (s, 5H), 4.72 (m, 2H), 7.22 (m, 2H), 7.42 (m, 2H).

reactant | 2-benzyl-1,2,3,4-tetrahydro[1]benzofuro[2,3-c]pyridine | 0.75 mmol, 0.2 g | C(C1=CC=CC=C1)N1CC2=C(CC1)C1=C(O2)C=CC=C1 | C18H17NO
reactant | methyl chloroformate | 3.787 mmol, 0.358 g | ClC(=O)OC | C2H3ClO2
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | methyl 3,4-dihydro[1]benzofuro[2,3-c]pyridine-2(1H)-carboxylate | 0.150 g, 85.7% | C1N(CCC2=C1OC1=C2C=CC=C1)C(=O)OC | C13H13NO3
